US08202858B2
4-(4-Methoxycarbonyl-butyl)-3-methyl-benzoic Acid
Trifluoroacetic acid (20 ml) was added to a solution of 4-(4-methoxycarbonyl-butyl)-3-methyl-benzoic acid tert-butyl ester from Example E31.3 (1.43 g, 4.7 mmol) in di-chloromethane (40 ml) and the mixture was stirred for 2 h at room temperature. Solvents were concentrated in vacuo and azeotroped with dichloromethane to yield the title compound (1.07 g, 92%).

reactant | Trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(4-methoxycarbonyl-butyl)-3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCCCC(=O)OC)C)=O | C18H26O4
solvent | di-chloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-(4-Methoxycarbonyl-butyl)-3-methyl-benzoic Acid | 1.07 g, 92% | COC(=O)CCCCC1=C(C=C(C(=O)O)C=C1)C | C14H18O4
